US08802659B2
6-((trans)-4-tert-butylcyclohexyloxy)-2-naphthaldehyde (300 mg, 0.96 mmol, 1 equiv) and 3-amino-N-(methylsulfonyl)propanamide (239 mg, 1.19 mmol, 1.5 equiv) were dissolved in anhydrous EtOH. The mixture was stirred at 80° C. for 1 h. Then NaBH3CN (110 mg, 1.74 mmol, 2 equiv) was added to the mixture and stirred at 80° C. for 16 h. The organic layer was concentrated and purified by prep-TLC to give 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-N-(methylsulfonyl)propanamide as a white solid (62 mg, 14%). (mobile phase: CH3OH/DCM=1:10). ESI-MS (M+1)+: 461.2, HPLC: 96.38%. 1H NMR (400 MHz, DMSO-d6) δ: 7.93 (s, 1H), 7.85˜7.77 (m, 2H), 7.59˜7.49 (m, 1H), 7.43˜7.35 (m, 1H), 7.20˜7.11 (m, 1H), 4.45˜4.33 (m, 1H), 4.20 (s, 2H), 2.98 (t, 2H), 2.77 (s, 3H), 2.35 (t, 2H), 2.26˜2.14 (m, 2H), 1.86˜1.75 (m, 2H), 1.41˜1.30 (m, 2H), 1.27˜1.14 (m, 2H), 1.13˜1.02 (m, 1H), 0.89 (s, 9H).

reactant | 6-((trans)-4-tert-butylcyclohexyloxy)-2-naphthaldehyde | 0.96 mmol, 300 mg, 1 equiv | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | 3-amino-N-(methylsulfonyl)propanamide | 1.19 mmol, 239 mg, 1.5 equiv | NCCC(=O)NS(=O)(=O)C | C4H10N2O3S
reactant | NaBH3CN | 1.74 mmol, 110 mg, 2 equiv | [BH3-]C#N.[Na+]
solvent | EtOH | CCO | C2H6O
product | 3-((6-((trans)-4-tert-butylcyclohexyloxy)naphthalen-2-yl)methylamino)-N-(methylsulfonyl)propanamide | 62 mg, 14% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)CNCCC(=O)NS(=O)(=O)C | C25H36N2O4S
